US07153857B2
hydroxy{-4-pyrimidin-2-yl-1-[({4-[5-(thien-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)methyl]butyl}formamide
and a solution of 2-[4-(hydroxyamino)-5-({4-[5-(thien-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)pentyl]pyrimidine (84 mg, 0.16 mmol) in THF (8 mL) was then added. The reaction was brought to RT and stirred for one hour. Volatiles were then removed in vacuo, and the residue azeotroped with toluene (2×5 mL). The residue was then dissolved in MeOH (10 mL) and heated to 40° C. for one hour. The solution was then cooled to RT and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 10% MeOH in EtOAc) to give the title compound as an off-white foam (87 mg, 0.16 mmol, 54%).

reactant | 2-[4-(hydroxyamino)-5-({4-[5-(thien-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)pentyl]pyrimidine | 0.16 mmol, 84 mg | ONC(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC=1SC=CC1 | C24H28N6O3S2
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | hydroxy{-4-pyrimidin-2-yl-1-[({4-[5-(thien-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)methyl]butyl}formamide | 0.16 mmol, 87 mg, 54% | ON(C=O)C(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC=1SC=CC1 | C25H28N6O4S2
